US04943655
Synthesis of 5-acetyl-2-methylbenzenesulfonamide
Thus obtained 5-acetyl-2-methylbenzenesulfonyl chloride was dissolved in 790 g of tetrahydrofuran, then 81 g of ammonia gas was added at a temperature below 10° C. 800 Grams of water was added to this reaction mixture, and tetrahydrofuran was removed by evaporation to crystallized 5-acetyl-2-methylbenzenesulfonamide. The crystals were collected by filtration, and dried to obtain 176.8 g (0.83M) of 5-acetyl-2-methylmethylbenzenesulfonamide. Melting point: 150.5°-151.5° C. The yield was 95% on the basis of 5-acetyl-2-methylbenzenesulfonyl chloride, and was 83% on the basis of N,N-diethylaniline salt of 5-acetyl-2-methylbenzenesulfonate.

reactant | 5-acetyl-2-methylbenzenesulfonyl chloride | C(C)(=O)C=1C=CC(=C(C1)S(=O)(=O)Cl)C | C9H9ClO3S
reactant | N,N-diethylaniline | C(C)N(C1=CC=CC=C1)CC | C10H15N
reactant | 5-acetyl-2-methylbenzenesulfonate | C(C)(=O)C=1C=CC(=C(C1)S(=O)(=O)[O-])C
product | 5-acetyl-2-methylbenzenesulfonamide | C(C)(=O)C=1C=CC(=C(C1)S(=O)(=O)N)C | C9H11NO3S
